Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]#[C:10][H:11]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11],-1.95587465958
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.2885184636400004
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-6.52443818793
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.97810862556
[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-4.62313876317
[H:1].[O:2]=[C:3]=[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9],-1.40556846614
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11].[H:4],1.94133118631
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.79165590555
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],3.62951226084
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2],7.961242427919999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:3],5.11817855918
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],2.58466999517
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],-0.816712507089
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.62972282447
[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]#[C:5][O:7][C:8]([H:9])[H:10].[H:6],2.71697333881
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.1516020637700004
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.02941624051
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.403827694989999
[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-6.604679064330001
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[O:7][C:8]1([H:9])[H:10]>>[C:1]#[C:2][C:8]([O:7][C:4]([O:3])([H:5])[H:6])([H:9])[H:10],2.47587223931
[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.32034388173
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.54725072009
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:11]([H:12])[H:13],2.61681824633
[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[C:2]([H:3])([H:4])=[C:5][O:6][H:7].[O:1],2.43930400764
[C:6](=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-2.00101725501
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5],3.11067835283
[C:3](=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-3.94199739277
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.75302677001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:3].[O:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],5.52283144452
